US08309595B2
N′-[(3Z)-1-(1-dodecyl)-2-oxo-1,2-dihydro-3H-indol-3-ylidene]benzohydrazide
The title compound was prepared as a pale orange solid, using 1-dodecyl-isatin and benzhydrazide according to the synthetic method D. The resulting solid was washed with ethanol. Yield: 100%. 1H NMR (DMSO-d6): δ 0.82 (t, J=6.6 Hz, 3H), 1.20-1.28 (m, 18H), 1.62-1.66 (m, 2H), 3.77 (t, J=6.9 Hz, 2H), 7.16-7.24 (m, 2H),7.48 (t, J=7.5 Hz, 1H), 7.60-7.73 (m, 4H), 7.92 (d, J=7.8 Hz, 2H), 13.91 (br s, 1H). 13C NMR (DMSO-d6): δ 14.38 (CH3), 22.53 (CH2), 26.67 (CH2), 27.38 (CH2), 29.07 (CH2), 29.14 (CH2), 29.32 (CH2), 39.36 (CH2), 29.43 (CH2), 29.45 (CH2), 31.73 (CH2), 39.75 (CH2), 110.68 (CH), 119.65 (C), 121.27 (CH), 123.70 (CH), 127.88 (CH), 129.65 (CH), 132.22 (CH), 132.41 (C), 133.40 (CH), 143.44 (C═N), 161.61 (C═O). HRMS (ES+) calcd for C27H36N3O2 (M+H+), m/e, 434.2812; found, 434.2802.

reactant | 1-dodecyl-isatin | C(CCCCCCCCCCC)N1C(=O)C(=O)C2=CC=CC=C12 | C20H29NO2
reactant | benzhydrazide | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
product | N′-[(3Z)-1-(1-dodecyl)-2-oxo-1,2-dihydro-3H-indol-3-ylidene]benzohydrazide | Yield: 100% | C(CCCCCCCCCCC)N1C(\C(\C2=CC=CC=C12)=N/NC(C1=CC=CC=C1)=O)=O | C27H35N3O2
